US04623652
1,1-Dimethyl-2-(ethoxycarbonylamino)ethylamine
To a mixture of 88.2 g (1 mol) of 1,2-diamino-2-methylpropane, 50 ml of triethylamine and 500 ml of diethylether was added dropwise a solution of 27.1 g (0.25 mol) of ethyl chloroformate in 100 ml of ether. The reaction mixture was stirred for 16 hours at 25° C. and filtered. Evaporation of the filtrate to dryness gave 38 g (95%) of product which was identified by NMR and IR spectroscopy.

reactant | 1,2-diamino-2-methylpropane | 1 mol, 88.2 g | NCC(C)(C)N | C4H12N2
reactant | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.25 mol, 27.1 g | ClC(=O)OCC | C3H5ClO2
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | diethylether | 500 ml | C(C)OCC | C4H10O
product | 1,1-Dimethyl-2-(ethoxycarbonylamino)ethylamine | 38 g, 95% | CC(CNC(=O)OCC)(C)N | C7H16N2O2
